US05656762
To a solution of 6.8 g of 2-phenylimidazole in 200 mL 3N hydrochloric acid was added 5% Rhodium on Carbon, Degussa type G10 NB/W. The mixture was hydrogenated at 100 psi for 24 hours then filtered through celite. The solution was neutralized with 25% sodium hydroxide and extracted with 2×100 mL ethyl acetate. The combined extract was washed with 200 mL of brine and dried over anhydrous sodium sulfate. Evaporation of the solvent gave 2-cyclohexylimidazole as a fluffy, white solid which was used in the next step without further purification or characterization.

reactant | 2-phenylimidazole | 6.8 g | C1(=CC=CC=C1)C=1NC=CN1 | C9H8N2
solvent | hydrochloric acid | 3N, 200 mL | Cl | ClH
catalyst | Rhodium on Carbon | [Rh] | Rh
product | 2-cyclohexylimidazole | C1(CCCCC1)C=1NC=CN1 | C9H14N2
